US03976695
Reacting 2-chloro-3,4-dibenzyloxystyrene oxide with t-butylamine followed by hydrogenation furnishes the product 2-chloro-α-(t-butylaminomethyl)-3,4-dihydroxybenzyl alcohol.

reactant | 2-chloro-3,4-dibenzyloxystyrene oxide | ClC1=C(C2CO2)C=CC(=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H19ClO3
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | 2-chloro-α-(t-butylaminomethyl)-3,4-dihydroxybenzyl alcohol | ClC1=C(C(CNC(C)(C)C)O)C=CC(=C1O)O | C12H18ClNO3
